US06548493B1
(7aS,11aR)-10-(2-fluoroethyl)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382 as a yellow oil (32 mg, 96%) from (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.077 mmol) and 1-bromo-2-fluoroethane (30 mg, 0.23 mmol). MS (CI, NH3): 435.1 (base, M+H).

reactant | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.077 mmol, 30 mg | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1)C(F)(F)F | C22H23F3N2O
reactant | 1-bromo-2-fluoroethane | 0.23 mmol, 30 mg | BrCCF | C2H4BrF
reactant | NH3 | N | H3N
product | (7aS,11aR)-10-(2-fluoroethyl)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | FCCN1C[C@@H]2[C@@H](N3CCCC4=CC(=CC2=C34)C3=C(C=C(C=C3)OC)C(F)(F)F)CC1 | C24H26F4N2O
